US04778618
Synthesis of Hexanoylacetyl Chloride
8.7 g (0.05 m) of hexanoylacetic acid and 12.7 g (0.10 m) of oxalyl chloride were mixed together at room temperature. The reaction was heated gradually over one hour to 50°-60° C., then to 60°-70° C. under aspirator pressure for one hour. The reaction mixture was diluted with 125 ml hexane, washed with 3×100 ml ice water, dried over 20 g MgSO4, and roto-vapped at 50° C. to yield an oil (9.4 g, 98% yield).

reactant | hexanoylacetic acid | 8.7 g | C(CCCCC)(=O)CC(=O)O | C8H14O3
reactant | oxalyl chloride | 12.7 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | hexane | 125 ml | CCCCCC | C6H14
product | Hexanoylacetyl Chloride | 9.4 g, 98% yield | C(CCCCC)(=O)CC(=O)Cl | C8H13ClO2
